datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]1([H:16])[C:10]([H:17])([H:18])[C:11]2([H:19])[C:12]([H:20])([H:21])[C:13]([H:22])([H:23])[C:14]1([H:24])[C:15]2([H:25])[H:26]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]1([H:16])[C:10]([H:17])([H:18])[C:11]2([H:19])[C:12]([H:20])([H:21])[C:13]([H:22])([H:23])[C:14]1([H:24])[C:15]2([H:25])[H:26],28.4512
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22],112.842
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:9])[H:4].[C:7]([S:8][H:12])([H:10])[H:11],25.104
[C:0](#[C:1][N:2]([H:4])[H:5])[H:3].[C:6]([H:7])([H:8])[H:9]>>[C:0](#[C:1][N:2][H:5])[H:3].[H:4][C:6]([H:7])([H:8])[H:9],36.994928
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[O:7])[H:8]>>[C-:6]#[O+:7].[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:26]([H:27])([H:28])[H:29],22.92832
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:9][H:28],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:11],33.1373
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:12])([H:13])[H:14])[H:5],52.2163
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])[H:7])([H:5])[H:6],25.8571
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:14])[C:9](=[S:10])[H:15])([H:11])([H:12])[H:13]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:11])([H:12])[H:13])([S:8][H:14])[C:9](=[S:10])[H:15],73.22
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[S:18]([S:19][H:21])[H:20]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:20])([H:9])([H:10])[H:11].[S:18][S:19][H:21],-8.368
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:14])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:15])[H:16],69.036
[C:0]([C:1]([O:2][H:12])([C:3]([O:4][O:5])([H:13])[H:14])[C:6]([O:7][O:8][H:17])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][H:12])([C:3]([O:4][O:5][H:9])([H:13])[H:14])[C:6]([O:7][O:8][H:17])([H:15])[H:16])([H:10])[H:11],88.15688
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[H:29])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],19.1209
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10])[H:4],61.1701
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[H:10][H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:11])[H:5].[H:10],95.8136
